US07847101B2
Synthesis of 5-methyl-4-(6-pyrrolidin-1-ylmethyl-benzothiazol-2-yl)-2H-pyrazol-3-ylamine (574-36C)
To a suspension of 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine (20 mg) in ethanol (1 mL) was added excess pyrrolidine. The reaction mixture was stirred at room temperature overnight. The solvent was then removed by evaporation and the residue was purified by flash column chromatography eluting with CHCl3:MeOH=9:1 to yield 2.7 mg of the title compound as a cream coloured solid. MS (m/z, ES+): 314.1 (M+1, 45%), 243.0 (M-C4H8N, 100%).

reactant | 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 20 mg | BrCC1=CC2=C(N=C(S2)C2=C(NN=C2C)N)C=C1 | C12H11BrN4S
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 5-methyl-4-(6-pyrrolidin-1-ylmethyl-benzothiazol-2-yl)-2H-pyrazol-3-ylamine | 2.7 mg | CC=1C(=C(NN1)N)C=1SC2=C(N1)C=CC(=C2)CN2CCCC2 | C16H19N5S
